US05459267
A solution of 1,4-diazabicyclo[2.2.2]octane N-oxide (1.26 g, 9.8 mmole) and sodium tetrafluoroborate (1 g, 9.1 mmole) in acetonitrile (250 mL) was cooled to 8° C. and treated with a mixture of fluorine in nitrogen (10% V/V, 30 mmole). The reaction was evaporated, the remaining solid washed with acetone and dried to afford 1.03 grams of 1-hydroxyl-4-fluoro- 1,4-diazoniabicyclo[2.2.2]octane bis(tetrafluoroborate) (70% yield).

reactant | 1,4-diazabicyclo[2.2.2]octane N-oxide | 9.8 mmole, 1.26 g | N12CC[N+](CC1)(CC2)[O-] | C6H12N2O
reactant | sodium tetrafluoroborate | 9.1 mmole, 1 g | F[B-](F)(F)F.[Na+]
reactant | fluorine | FF | F2
solvent | acetonitrile | 250 mL | C(C)#N | C2H3N
product | 1-hydroxyl-4-fluoro- 1,4-diazoniabicyclo[2.2.2]octane bis(tetrafluoroborate) | 1.03 grams, 70% yield | F[B-](F)(F)F.F[B-](F)(F)F.O[N+]12CC[N+](CC1)(CC2)F | InChI=1S/C6H13FN2O.2BF4/c7-8-1-4-9(10,5-2-8)6-3-8;2*2-1(3,4)5/h10H,1-6H2;;/q+2;2*-1
